**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Power over Ethernet High Power Transformer
* Matchcode:              WE-PoEH
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Toby      
* Date and Time:          2022-05-17
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************

.subckt	749119550		1  3  4  5  9  6  10  7		
.param RxLkg=1242.26ohm					
.param Leakage=0.4uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	47.6uH	Rser=50mohm	
Laux1	4	5	6.75uH	Rser=80mohm	
Lsec1	9	6	1.688uH	Rser=7mohm	
Lsec2	10	7	1.688uH	Rser=7mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1					
.param Cprm1=5.4pf					
.param Rdmp1=149071.34ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	4	0	20meg		
Rg7	3	0	20meg		
Rg9	5	0	20meg		
Rg11	9	0	20meg		
Rg12	10	0	20meg		
Rg19	6	0	20meg		
Rg20	7	0	20meg		
.ends					

.subckt	7491195331		1  3  4  5  9  6  10  7		
.param RxLkg=791.56ohm					
.param Leakage=0.2uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	20.8uH	Rser=20mohm	
Laux1	4	5	11.813uH	Rser=120mohm	
Lsec1	9	6	1.313uH	Rser=7mohm	
Lsec2	10	7	1.313uH	Rser=7mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1					
.param Cprm1=7.6pf					
.param Rdmp1=83113.74ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	4	0	20meg		
Rg7	3	0	20meg		
Rg9	5	0	20meg		
Rg11	9	0	20meg		
Rg12	10	0	20meg		
Rg19	6	0	20meg		
Rg20	7	0	20meg		
.ends					

.subckt	749119533		1  3  4  5  9  6  10  7		
.param RxLkg=1506.46ohm					
.param Leakage=0.5uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	53.5uH	Rser=50mohm	
Laux1	4	5	7.594uH	Rser=80mohm	
Lsec1	9	6	0.844uH	Rser=4mohm	
Lsec2	10	7	0.844uH	Rser=4mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1					
.param Cprm1=5.1pf					
.param Rdmp1=162697.98ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	4	0	20meg		
Rg7	3	0	20meg		
Rg9	5	0	20meg		
Rg11	9	0	20meg		
Rg12	10	0	20meg		
Rg19	6	0	20meg		
Rg20	7	0	20meg		
.ends					

.subckt	7491195224		1  3  4  5  9  6  10  7		
.param RxLkg=344.06ohm					
.param Leakage=0.23uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	20.77uH	Rser=20mohm	
Laux1	4	5	9.333uH	Rser=110mohm	
Lsec1	9	6	47.25uH	Rser=110mohm	
Lsec2	10	7	47.25uH	Rser=110mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1					
.param Cprm1=53.2pf					
.param Rdmp1=31414.05ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	4	0	20meg		
Rg7	3	0	20meg		
Rg9	5	0	20meg		
Rg11	9	0	20meg		
Rg12	10	0	20meg		
Rg19	6	0	20meg		
Rg20	7	0	20meg		
.ends					

.subckt	7491195212		1  3  4  5  9  6  10  7		
.param RxLkg=377.96ohm					
.param Leakage=0.12uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	20.88uH	Rser=25mohm	
Laux1	4	5	9.333uH	Rser=110mohm	
Lsec1	9	6	11.813uH	Rser=47mohm	
Lsec2	10	7	11.813uH	Rser=47mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1					
.param Cprm1=12pf					
.param Rdmp1=66143.79ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	4	0	20meg		
Rg7	3	0	20meg		
Rg9	5	0	20meg		
Rg11	9	0	20meg		
Rg12	10	0	20meg		
Rg19	6	0	20meg		
Rg20	7	0	20meg		
.ends					

.subckt	7491195112		1  3  4  5  9  6  10  7		
.param RxLkg=879.16ohm					
.param Leakage=0.3uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	40.7uH	Rser=53mohm	
Laux1	4	5	5.766uH	Rser=83mohm	
Lsec1	9	6	5.766uH	Rser=16mohm	
Lsec2	10	7	5.766uH	Rser=19mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1					
.param Cprm1=7.1pf					
.param Rdmp1=120152.42ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	4	0	20meg		
Rg7	3	0	20meg		
Rg9	5	0	20meg		
Rg11	9	0	20meg		
Rg12	10	0	20meg		
Rg19	6	0	20meg		
Rg20	7	0	20meg		
.ends					

.subckt	7491195501		1  3  4  5  9  6  10  7		
.param RxLkg=843.05ohm					
.param Leakage=0.2uh					
Rlkg	1	1a	{RxLkg}		
L_Lkg	1	1a	{Leakage}	Rser=0.01mohm	
Lpri1	1a	3	20.8uH	Rser=30mohm	
Laux1	4	5	9.333uH	Rser=110mohm	
Lsec1	9	6	2.333uH	Rser=10mohm	
Lsec2	10	7	2.333uH	Rser=10mohm	
K Lpri1  Laux1  Lsec1 Lsec2       1					
.param Cprm1=6.7pf					
.param Rdmp1=88520.13ohm					
Cpri1	1	3	{Cprm1}	Rser=10mohm	
Rdmp1	1	3	{Rdmp1}		
Rg3	1	0	20meg		
Rg5	4	0	20meg		
Rg7	3	0	20meg		
Rg9	5	0	20meg		
Rg11	9	0	20meg		
Rg12	10	0	20meg		
Rg19	6	0	20meg		
Rg20	7	0	20meg		
.ends					
